US07626056B2
1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile
To a stirred solution of diisopropylamine (1.59 ml; 11.3 mmol) in THF (10 ml) at 0° C was added dropwise butyl lithium (2.5 M in hexanes; 4.51 ml; 11.3 mmol). The mixture was stirred at 0° C. for 15 minutes then cooled to −78° C. A solution of 4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile (2 g; 10.2 mmol) in THF (10 ml) was added dropwise. On complete addition, the mixture was stirred at −78° C. for 30 minutes. Cyclopropanecarboxaldehyde (0.91 ml; 12.2 mmol) was added dropwise and the mixture was allowed to warm slowly to room temperature and stir for 64 hours. The mixture was quenched with brine (50 ml) and extracted with EtOAc (2×75 ml). The combined organics were washed with saturated sodium hydrogen carbonate solution (50 ml) and brine (50 ml), dried (MgSO4) and evaporated in vacuo to give an orange oil. The crude product was chromatographed on silica eluted with 25-30% EtOAc in hexane to give the product as an orange oil (1.9339 g). 1H NMR (400 MHz, DMSO): δ 5.29 (1H, d, J 4.9), 2.76 (1H, dd, J 4.9, 7.8), 2.68-2.58 (1H, m), 2.15-2.11 (1H, m), 2.04-1.98 (4H, m), 1.56-1.38 (4H, m), 0.98-0.88 (2H, m), 0.52-0.48 (3H, m), 0.45-0.37 (1H, m), 0.34-0.28 (2H, m), 0.19-0.17 (2H, m). m/z=266 (M+H+).

reactant | diisopropylamine | 11.3 mmol, 1.59 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 11.3 mmol, 2.5 M, 4.51 ml | C(CCC)[Li]
reactant | 4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile | 10.2 mmol, 2 g | C1(CC1)CSC1CCC(CC1)C#N | C11H17NS
reactant | Cyclopropanecarboxaldehyde | 12.2 mmol, 0.91 ml | C1(CC1)C=O | C4H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile | 1.9339 g | C1(CC1)C(C1(CCC(CC1)SCC1CC1)C#N)O | C15H23NOS
